US08895733B2
Intermediate 109: Methyl 3-[(4-amino-6-chloro-1,3,5-triazin-2-yl)amino]benzoate
Methyl 3-aminobenzoate (0.69 g, 4.55 mmol) and a 1N NaOH aqueous solution (0.91 mL, 0.91 mmol) were added to a solution of 4,6-dichloro-1,3,5-triazin-2-amine (0.75 g, 4.55 mmol) in a 1:1 MeCN/water mixture (40 mL) at 0 C. The mixture was stirred at 0 C for 1 h and room temperature for 3 days. The acetonitrile was removed under vacuum and the resulting white solid in water was filtered and dried under vacuum to provide the title compound (1.1 g, 87%). Method B HPLC-MS: MH+ requires m/z=280/282 Found: m/z=280/282, Rt=1.69 min (95%).

reactant | Methyl 3-aminobenzoate | 4.55 mmol, 0.69 g | NC=1C=C(C(=O)OC)C=CC1 | C8H9NO2
reactant | NaOH | 0.91 mmol, 1N, 0.91 mL | [OH-].[Na+]
reactant | 4,6-dichloro-1,3,5-triazin-2-amine | 4.55 mmol, 0.75 g | ClC1=NC(=NC(=N1)Cl)N | C3H2Cl2N4
solvent | MeCN water | 40 mL | CC#N.O
product | Methyl 3-[(4-amino-6-chloro-1,3,5-triazin-2-yl)amino]benzoate | 1.1 g, 87% | NC1=NC(=NC(=N1)Cl)NC=1C=C(C(=O)OC)C=CC1 | C11H10ClN5O2
